US05276025
Step B: Preparation of 4-ethyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide hydrochloride
4-Acetyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide (200 mg, 0.62 mmol) was dissolved in dry THF (10 mL), boron trifluoride etherate (0.15 mL) was added and the reaction mixture was refluxed for 0.5 hour. Borane dimethyl sulfide complex (0.7 mL) was added and the reaction mixture was refluxed for 1 hour. The reaction mixture was cooled and methanol and isopropanolic HCl were added. This solution was refluxed for 0.5 hours and the solvents removed. The residue was chromatographed on silica gel eluting with 10% methanol-methylene chloride. Appropriate fractions were combined, isopropanolic HCl added and the solvents evaporated to give 110 mg (27%) of the title compound as its hydrochloride salt. Recrystallization from isopropanol afforded analytically pure material as the hydrochloride salt solvated with one equivalent of isopropanol.

reactant | 4-Acetyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide | 0.62 mmol, 200 mg | C(C)(=O)N1CCS(C2=C(C1)C=C(S2)S(N)(=O)=O)(=O)=O | C9H12N2O5S3
reactant | boron trifluoride etherate | 0.15 mL | B(F)(F)F.CCOCC
reactant | methanol | CO | CH4O
reactant | HCl | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-ethyl-7-sulfamoyl-2,3,4,5-tetrahydrothieno[3,2-f]-1,4-thiazepin-1,1-dioxide hydrochloride | 110 mg, 27% | Cl.C(C)N1CCS(C2=C(C1)C=C(S2)S(N)(=O)=O)(=O)=O | InChI=1S/C9H14N2O4S3.ClH/c1-2-11-3-4-17(12,13)9-7(6-11)5-8(16-9)18(10,14)15;/h5H,2-4,6H2,1H3,(H2,10,14,15);1H
